Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
planned admission for alloHSC transplant
 
Major Surgical or Invasive Procedure:
RIJ Tunneled Triple Lumen Power Access Line  ___

AlloSCT: ___

 
History of Present Illness:
Mr ___ is a ___ year old man with relapsed AML, now admitted
for ablation chemotherapy and allogenic SCT. His AML was
diagnosed in ___ initially with favorable mutational profile
(normal karyotype; FLT3 negative, NPM1 positive, IDH2 positive,
RAD21 positive, CEBPA negative), however he relapsed 12 months
post last HIDAC. He underwent re-induction chemotherapy with
MEC-Lenalidomide ___ (course complicated by C. diff and
perianal abscess) and achieved complete remission with 
incomplete
count recovery based on D+35 BMBx. However his next-gen
sequencing still had detectable clone, indicating measurable
residual disease. He is now admitted for ablation chemotherapy
with Flu/Bu before allogenic stem cell transplant, planned for
___. Donor is the patient's brother. 

 
Vitals on ___ 1230 Temp: 97.4 PO BP: 119/69 HR: 72
RR: 18 O2 sat: 100% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain
Score: ___ 

Upon arrival to the floor, he is feeling well, and denies any
cardiorespiratory or infectious symptoms. 

Review of Systems:  
(+) Per HPI. 
Denies fever, chills, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, cough, shortness of breath,
chest pain, abdominal pain, nausea, vomiting, diarrhea,
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 
 
Past Medical History:
TREATMENT COURSE:
-------------------
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of
6 doses attributed to possible cytarabine syndrome, all resolved
with higher dexamethasone premedication. also received neulasta
on D9
--___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric
antibiotics without complications or infectious source
--___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
- ___ - initiation of therapy for relapsed AML on trial
___

PAST MEDICAL HISTORY: AML as above

 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 24 HR Data (last updated ___ @ 1233)
    Temp: 97.4 (Tm 97.4), BP: 119/69, HR: 72, RR: 18, O2 sat:
100%, O2 delivery: RA, Wt: 212.5 lb/96.39 kg 
GENERAL:  Well-appearing adult man laying comfortably in no
acute distress, in good spirits.  Pleasant, conversant and
interactive.
HEENT:  Anicteric sclerae.  Mucous membranes are moist and pink.
no petechiae, purpura, or exudates. no erythema in oropharynx.
S/P extraction of two teeth #27, #28
LYMPHATICS:  no tenderness in right cervical region.
PULMONARY:  Lungs are clear bilaterally.
HEART:  Within normal rate and regular rhythm, no murmurs, rubs
or gallops.
ABDOMEN:  Soft, nontender, nondistended.  No palpable masses or
hepatosplenomegaly.
EXTREMITIES:  Without any edema.
SKIN: no petechiae, ecchymosis, or rashes
LINES: Tunneled RIJ

DISCHARGE PHYSICAL EXAM
=========================
24 HR Data (last updated ___ @ 607)
    Temp: 98.3 (Tm 98.3), BP: 100/61 (100-165/61-86), HR: 69
(61-81), RR: 19 (___), O2 sat: 97% (97-100), O2 delivery: Ra,
Wt: 193.4 lb/87.73 kg  
GENERAL: Resting comfortably in bed in NAD
HEENT:  Anicteric sclerae.  Mucous membranes are moist, intact
mucosa without exudate S/P extraction of two teeth #27, #28
LYMPHATICS:  no palpable cervical LAD
PULMONARY:  CTAB
HEART:  Within normal rate and regular rhythm, no murmurs, rubs
or gallops.
ABDOMEN:  Soft, nontender, non-distended
EXTREMITIES:  wwp, no edema.
SKIN: no petechiae, ecchymosis, or rashes
LINES: Tunneled RIJ, no erythema
 
Pertinent Results:
ADMISSION LABS
===============

___ 09:30AM BLOOD WBC-3.1* RBC-2.28* Hgb-7.3* Hct-22.7* 
MCV-100* MCH-32.0 MCHC-32.2 RDW-21.5* RDWSD-54.1* Plt ___
___ 09:30AM BLOOD Neuts-63.2 ___ Monos-4.2* Eos-3.2 
Baso-0.3 NRBC-1.6* Im ___ AbsNeut-1.97 AbsLymp-0.90* 
AbsMono-0.13* AbsEos-0.10 AbsBaso-0.01
___ 09:30AM BLOOD ___ PTT-26.9 ___
___ 09:30AM BLOOD UreaN-12 Creat-0.8 Na-143 K-3.9 Cl-107 
HCO3-24 AnGap-12
___ 09:30AM BLOOD ALT-23 AST-22 LD(LDH)-164 AlkPhos-113 
TotBili-0.3 DirBili-<0.2 IndBili-0.3
___ 09:30AM BLOOD TotProt-6.7 Albumin-4.3 Globuln-2.4 
Calcium-8.9 Phos-3.0 Mg-1.6 UricAcd-6.2

INTERVAL LABS
==============

___ 12:00AM BLOOD WBC-0.3* RBC-2.09* Hgb-6.8* Hct-20.0* 
MCV-96 MCH-32.5* MCHC-34.0 RDW-21.1* RDWSD-67.5* Plt Ct-13*
___ 12:00AM BLOOD Neuts-0* Lymphs-91* Monos-9 Eos-0* Baso-0 
AbsNeut-0.00* AbsLymp-0.27* AbsMono-0.03* AbsEos-0.00* 
AbsBaso-0.00*

DISCHARGE LABS
===============

___ 12:00AM BLOOD WBC-2.8* RBC-2.93* Hgb-9.5* Hct-29.4* 
MCV-100* MCH-32.4* MCHC-32.3 RDW-21.8* RDWSD-76.0* Plt ___
___ 12:00AM BLOOD Neuts-43.4 ___ Monos-28.0* 
Eos-0.7* Baso-1.1* Im ___ AbsNeut-1.21* AbsLymp-0.71* 
AbsMono-0.78 AbsEos-0.02* AbsBaso-0.03
___ 12:00AM BLOOD ___ PTT-26.8 ___
___ 12:00AM BLOOD Ret Aut-5.2* Abs Ret-0.15*
___ 12:00AM BLOOD Glucose-96 UreaN-10 Creat-0.8 Na-141 
K-4.1 Cl-106 HCO3-22 AnGap-13
___ 12:00AM BLOOD ALT-16 AST-17 LD(LDH)-227 AlkPhos-60 
TotBili-0.3
___ 12:00AM BLOOD TotProt-6.0* Albumin-3.9 Globuln-2.1 
Calcium-9.0 Phos-4.1 Mg-1.9
___ 09:08AM BLOOD tacroFK-14.9
___ 12:00AM BLOOD CMV VL-NOT DETECT

IMAGING/STUDIES
================
Tunneled line placement ___
FINDINGS: 
Patent right internal jugular vein. Final fluoroscopic image 
showing right IJ
approach triple-lumen powered tunneled catheter with tip 
terminating in the
right atrium.
 
IMPRESSION: 
Successful placement of a triple-lumen powered tunneled tunneled 
line via the
right internal jugular venous approach. The tip of the catheter 
terminates in
the right atrium. The catheter is ready for use.

ECG Normal sinus rhythm Nonspecific intraventricular block When 
compared with ECG of ___ 10:42, Criteria for Septal 
infarct are no longer present Electronically signed by MD ___, 
___ (___) on ___ 11:19:41 AM

MICRO
========
___. difficile PCR-FINAL {POSITIVE}; C. 
difficile Toxin antigen assay-FINAL {POSITIVE}INPATIENT

___ Cell - Blood CultureStem Cell ___ 
Culture-FINALINPATIENT

 
Brief Hospital Course:
PATIENT SUMMARY
============================
___ is a ___ man with relapsed intermediate risk AML 
s/p re-induction with MEC Lenalidomide per protocol ___ 
presenting for ablation chemotherapy, allogenic SCT on ___. 

ACUTE ISSUES
============================
# Relapsed AML: S/p re-induction on protocol ___ with 
Mitoxantrone, Etoposide, and Cytarabine(MEC) plus Lenalidomide. 
Has undergone pre-transplanbt workup s/p extraction ___, 
PFT DLCO 61%, ECHO LVEF 55%. Bone marrow biopsy +35 showed 
complete
remission with incomplete count recover, but next gen sequencing 
showed measurable residual disease. He underwent Flu/Bu ablation 
chemotherapy (___) and allogenic stem cell transplant 
___. He was started on prophylaxis with levofloxacin, 
bactrim, acyclovir, and fluconazole. Levofloxacin was stopped 
when ___ was near 500 and we started treatment for CDiff.

# C diff: last admission treated with vancomycin, finished 
course ___. Pt complained about loose stool without 
abdominal pain or cramping. Cdiff PCR and toxin were positive. 
Oral vanc 125mg PO QID was started on ___. For first 
recurrence then taper with 125 mg orally twice daily for 7 days 
(___), then 125 mg orally once daily for 7 days 
(___), then 125 mg orally every 2 for 8 weeks (___). 


CHRONIC/RESOLVED CONDITIONS
============================
# Marijuana Use: Reports using CBD oil and occasional vaporized 
marijuana prior to admission. 

# Prior perianal abscess: During last admission. s/p augmentin 
and cipro, follow up ultrasound with no focal fluid collection 
identified. 

TRANSITIONAL ISSUES: 
==================
[] New Meds:
Sulfameth/Trimethoprim SS 1 TAB PO DAILY START DAY +21: ___
Ursodiol 300 mg PO BID 
Tacrolimus 1 mg PO QPM 
Tacrolimus 0.5 mg PO QAM 
[] Changed Meds:
Acyclovir 400 mg PO Q8H (from q12H)
[] Discharge weight: 88.72 kg
[] Will need tacro level ___ AM before AM dose of tacro. 
Tacro goal ___. Last Level on ___: 14.9
[] C diff taper for first recurrence Vanc 125mg PO QID was 
started on (___), then 125 mg orally twice daily for 7 days 
(___), then 125 mg orally once daily for 7 days 
(___), then 125 mg orally every 2 days for 8 weeks 
(___). 
[] RIJ Tunneled Triple Lumen Power Access Line placed ___
[] CML VL ___ PENDING

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Acyclovir 400 mg PO Q12H 
5. cannabidiol (CBD) extract ___ mg/mL oral uncertain 
6. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth Once daily Disp #*30 
Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*0 
4.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once daily Disp #*30 Tablet Refills:*0 
5.  Tacrolimus 1 mg PO QPM 
RX *tacrolimus 0.5 mg 2 capsule(s) by mouth At 10pm Disp #*60 
Capsule Refills:*0 
6.  Tacrolimus 0.5 mg PO QAM 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth At 10am Disp #*30 
Capsule Refills:*0 
7.  Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth Twice a day Disp #*60 
Capsule Refills:*0 
8.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth 4 times a day Disp 
#*44 Capsule Refills:*0 
9.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
10.  LORazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
RX *lorazepam [Ativan] 0.5 mg 1 tablets by mouth every 6 hours 
Disp #*15 Tablet Refills:*0 
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==============
AML

Secondary diagnosis:
================
CDiff
Mucositis
History of perianal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,   

It was a privilege caring for you at ___ ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted for ablative chemotherapy and a stem cell 
transplant for your leukemia.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received chemotherapy and the the stem cell transplant. 
- You were started on medications to prevent infection. 
- We monitored your blood counts, which were increasing at 
discharge
- You developed loose stool and you tested positive for CDiff; 
we started you on oral vancomycin four times a day. You will 
slowly decrease the amount of vancomycin, your treatment will 
continue until until ___. 
- You developed mucositis, which resolved.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___